US07435744B2
6-{2[-4-(4-Chloro-phenoxy)-piperidin-1-yl]-2-oxo-ethylamino}-3H-benzoxazol-2-one (45 70003134)
The title compound is prepared from 6-amino-3H-benzoxazol-2-one and 2-chloro-1-[4-(4-chloro-phenoxy)-piperidin-1-yl]-ethanone according to the method described in Example 206. Melting Point: 180-183° C. (diethylether)

reactant | 6-amino-3H-benzoxazol-2-one | NC1=CC2=C(NC(O2)=O)C=C1 | C7H6N2O2
reactant | 2-chloro-1-[4-(4-chloro-phenoxy)-piperidin-1-yl]-ethanone | ClCC(=O)N1CCC(CC1)OC1=CC=C(C=C1)Cl | C13H15Cl2NO2
solvent | diethylether | C(C)OCC | C4H10O
product | 6-{2[-4-(4-Chloro-phenoxy)-piperidin-1-yl]-2-oxo-ethylamino}-3H-benzoxazol-2-one | ClC1=CC=C(OC2CCN(CC2)C(CNC2=CC3=C(NC(O3)=O)C=C2)=O)C=C1 | C20H20ClN3O4
